US04824958
4,5-Dibromo-3-(1-methylethoxy)-1-phenyl-N-1H-tetrazol-5-yl-1H-pyrrole-2-carboxamide.
A solution of 4,5-dibromo-3-(1-methylethoxy)-1-phenyl-1H-pyrrole-2-carboxylic acid (2.0 g, 0.005 moles) and 1,1'-carbonyldiimidazole (0.8 g, 0.005 moles) in THF (25 mL) is heated under argon to reflux. After 1 hour, 5-aminotetrazole (0.4 g, 0.005 moles) is added. After 2.5 hours, the mixture is stirred into ice water (250 mL) and acidified with dilute HCl. The precipitate is filtered off, rinsed with water and dried. Recrystallization from methyl t-butyl ether gave the pure product (0.8 g); mp 184° C. (dec).

reactant | 4,5-dibromo-3-(1-methylethoxy)-1-phenyl-1H-pyrrole-2-carboxylic acid | 0.005 moles, 2.0 g | BrC=1C(=C(N(C1Br)C1=CC=CC=C1)C(=O)O)OC(C)C | C14H13Br2NO3
reactant | 1,1'-carbonyldiimidazole | 0.005 moles, 0.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-aminotetrazole | 0.005 moles, 0.4 g | NC1=NN=NN1 | CH3N5
reactant | HCl | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4,5-Dibromo-3-(1-methylethoxy)-1-phenyl-N-1H-tetrazol-5-yl-1H-pyrrole-2-carboxamide | 0.8 g | BrC=1C(=C(N(C1Br)C1=CC=CC=C1)C(=O)NC1=NN=NN1)OC(C)C | C15H14Br2N6O2
